US04855303
A. 1,1-difluoro-4-cyclohexyl-1-buten-3-ol
2,2-Difluorovinyllithium1 was prepared by dropwise addition of sec-butyllithium in cyclohexane (88 mL of 1.4M, 0.123 mol, 1.0 equiv) during 10 minutes to a stirred solution of 1,1-difluoroethylene (15.3 g, 0.230 mol, 1.9 equiv) in THF (140 mL) and ether (20 mL). The reaction mixture was maintained between -100° and -93° C. during this addition and was subsequently stirred 10 minutes at -100° C. Cyclohexylacetaldehyde (15.6 g, 0.123 mol, 1.0 equiv) was added dropwise over 5 minutes (the reaction temperature rose to -89° C.), and the resulting mixture was stirred 1 hour between -110° and -93° C. Saturated aqueous NH4Cl (50 mL) was then added, and the mixture was warmed to 0° C. and treated with ether (500 mL) and brine. After separation the organic layer was washed twice with 1N aqueous HCl, H2O, aqueous saturated NaHCO3, and dried over MgSO4. Concentration at reduced pressure gave a yellow oil which was distilled (a small amount of CaCO3 was added) at reduced pressure (ca. 0.1 Torr) giving 6.7 g of the pure title substance as a colorless liquid (bp 65°-70° C.), together with 25° C.-65° C. (5.2 g) and 70°-80° C. (5.2 g) fractions. Separate distillation of these impure fractions separated less polar (TLC) lower and higher boiling contaminants, respectively, affording additional samples of product (total yield, 12.7 g, 54%): TLC Rf 0.15 ether-hexanes; 1H-NMR (300 mHz, CDCl3) δ 0.97 (m, 2H), 1.07-1.93 (overlapping m, 15H), 4.12 (ddd, 1H, J=22, 10, ca 2 Hz), 4.52 (m, 1H).

reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | cyclohexane | 0.123 mol, 1.4M, 88 mL, 1.0 equiv | C1CCCCC1 | C6H12
reactant | 1,1-difluoroethylene | 0.230 mol, 15.3 g, 1.9 equiv | FC(=C)F | C2H2F2
reactant | Cyclohexylacetaldehyde | 0.123 mol, 15.6 g, 1.0 equiv | C1(CCCCC1)CC=O | C8H14O
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 140 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | brine | [Cl-].[Na+].O
solvent | ether | 500 mL | CCOCC | C4H10O
product | 1,1-difluoro-4-cyclohexyl-1-buten-3-ol | FC(=CC(CC1CCCCC1)O)F | C10H16F2O
